US07414076B2
Preparation of 3-(3,4-dihydroxybenzyl)amino-1-propanesulfonic acid (Compound S)
To a solution of 3,4-dimethoxybenzylamine (2.2 mL, 15.0 mmol) in 2-butanone (20 mL) was added 1,3-propane sultone (1.98 g, 15.8 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. The crude product was suspended in 75% Acetone/MeOH (75 mL). The suspension was stirred at reflux for 30 sec.; the solid material was collected by filtration, washed with acetone (2×25 mL), and dried in vacuo. The solid (1.94 g, 6.7 mmol) was dissolved hydrobromic acid (48%, 27 mL). The solution was stirred at 100° C. for 4 h. The solvent was removed under reduced pressure. The residue was dissolved in water (20 mL). The aqueous phase was washed with CH2Cl2 (3×20 mL), and evaporated under educed pressure. The solid residue was suspended in hot MeOH (75 mL). The suspension was stirred at reflux for 30 sec.; the solid was collected by filtration, washed with 50% MeOH/acetone, and dried in vacuo. This allowed the isolation of compound S, 1.22 g (70%).

reactant | 3,4-dimethoxybenzylamine | 15.0 mmol, 2.2 mL | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 1,3-propane sultone | 15.8 mmol, 1.98 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | hydrobromic acid | 27 mL | Br | BrH
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | 3-(3,4-dihydroxybenzyl)amino-1-propanesulfonic acid | OC=1C=C(CNCCCS(=O)(=O)O)C=CC1O | C10H15NO5S
